US08871738B2
To a 100 mL RBF were added (3-chloro-4-methoxyphenyl)boronic acid (1.89 g, 10.14 mmol), (S)-tert-butyl 2-methyl-5-oxo-2,5-dihydro-1H-pyrrole-1-carboxylate (1 g, 5.07 mmol), hydroxy(cyclooctadiene)rhodiumRhodium(I)dimer (0.116 g, 0.254 mmol), potassium hydrogen fluoride (1.58 g, 20.28 mmol). The mixture was degased and filled back with N2. Dioxane (45 mL) and water (5 mL) were then added. The mixture was degased again and filled with N2. The reaction mixture was heated at 60° C. overnight. It was diluted with EtOAc (200 mL), washed with water, brine. Organic layer was dried over Na2SO4, and concentrated. The residue was purified by silica gel chromatography, eluted with 30% EtOAc/Hexane to give (2S,3S)-tert-butyl 3-(3-chloro-4-methoxyphenyl)-2-methyl-5-oxopyrrolidine-1-carboxylate (intermediate J1, 0.85 g) as white crystalline solid. 1H NMR (500 MHz, CDCl3): δ 7.20 (s, 1H), 7.05 (d, 1H), 6.87 (d, 1H), 4.08 (m, 1H), 3.86 (s, 3H), 2.95 (m, 2H), 2.53 (m, 1H), 1.52 (s, 9H), 1.41 (d, 3H).

reactant | (3-chloro-4-methoxyphenyl)boronic acid | 10.14 mmol, 1.89 g | ClC=1C=C(C=CC1OC)B(O)O | C7H8BClO3
reactant | (S)-tert-butyl 2-methyl-5-oxo-2,5-dihydro-1H-pyrrole-1-carboxylate | 5.07 mmol, 1 g | C[C@@H]1N(C(C=C1)=O)C(=O)OC(C)(C)C | C10H15NO3
reactant | potassium hydrogen fluoride | 20.28 mmol, 1.58 g | F.[K]
product | (2S,3S)-tert-butyl 3-(3-chloro-4-methoxyphenyl)-2-methyl-5-oxopyrrolidine-1-carboxylate | 0.85 g | ClC=1C=C(C=CC1OC)[C@H]1[C@@H](N(C(C1)=O)C(=O)OC(C)(C)C)C | C17H22ClNO4
